US06787546B2
(E)-4-(2-(2-(N-(4-Methylpiperazin-1-yl)acetyl-N-(4-methoxy -benzenesulfonyl)amino)phenyl)ethenyl)pyridine 1-oxide hydrochloride
(E) -4-(2-(2-(N-(4-Methoxybenzenesulfonyl)amino)phenyl)ethenyl) pyridine 1-oxide (0.96 g) was dissolved in methylene chloride (25 ml), and 4-methylpiperazin-1-yl acetic acid (0.99 g) prepared in Reference Example 1 and 4-pyrrolidinopyridine (37 mg) were added thereto. To the mixture was added dropwise N,N′-dicyclohexylcarbodiimide (1.29 g) dissolved in methylene chloride (13 ml), and the mixture was stirred over night at room temperature. The reaction solution was filtered and the filtrate was concentrated. The resultant residue was subjected to silica gel column chromatography (eluent: CHCl3/CH3OH=100/1 to 10/1) to obtain fractions. To each fraction was added hydrochloric acid-ether solution followed by concentration. The residue was diluted with water, filtered through membrane filter and lyophilized to yield the objective compound (1.25 g, colorless powder).

reactant | (E) -4-(2-(2-(N-(4-Methoxybenzenesulfonyl)amino)phenyl)ethenyl) pyridine 1-oxide | 0.96 g | COC1=CC=C(C=C1)S(=O)(=O)NC1=C(C=CC=C1)/C=C/C1=CC=[N+](C=C1)[O-] | C20H18N2O4S
reactant | 4-methylpiperazin-1-yl acetic acid | 0.99 g | CN1CCN(CC1)CC(=O)O | C7H14N2O2
reactant | 4-pyrrolidinopyridine | 37 mg | N1(CCCC1)C1=CC=NC=C1 | C9H12N2
reactant | N,N′-dicyclohexylcarbodiimide | 1.29 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
reactant | methylene chloride | 13 ml | C(Cl)Cl | CH2Cl2
product | (E)-4-(2-(2-(N-(4-Methylpiperazin-1-yl)acetyl-N-(4-methoxy -benzenesulfonyl)amino)phenyl)ethenyl)pyridine 1-oxide hydrochloride | Cl.CN1CCN(CC1)CC(=O)N(S(=O)(=O)C1=CC=C(C=C1)OC)C1=C(C=CC=C1)/C=C/C1=CC=[N+](C=C1)[O-] | InChI=1S/C27H30N4O5S.ClH/c1-28-17-19-29(20-18-28)21-27(32)31(37(34,35)25-11-9-24(36-2)10-12-25)26-6-4-3-5-23(26)8-7-22-13-15-30(33)16-14-22;/h3-16H,17-21H2,1-2H3;1H/b8-7+;
